US08791267B2
To the 3-methoxy-6-methyl-2-(3-trifluoromethyl-phenyl)-pyridine synthesized above (1.3 g, 4.86 mmol) and NBS (1.04 g, 5.83 mmol) in CCl4 (25 mL) was added benzoyl peroxide (0.12 g, 0.49 mmol). The reaction was stirred at 80° C. under N2 for 20 h. The reaction was cooled to room temperature and concentrated. The residue was dissolved in mixture of dichloromethane and hexanes (1:1, 8 mL) and purified by silica gel column chromatography using 1:1 dichloromethane-hexanes to afford 0.74 g (44%) of 6-bromomethyl-3-methoxy-2-(3-trifluoromethyl-phenyl)-pyridine as off-white solid.

reactant | 3-methoxy-6-methyl-2-(3-trifluoromethyl-phenyl)-pyridine | COC=1C(=NC(=CC1)C)C1=CC(=CC=C1)C(F)(F)F | C14H12F3NO
reactant | NBS | 5.83 mmol, 1.04 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.49 mmol, 0.12 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-bromomethyl-3-methoxy-2-(3-trifluoromethyl-phenyl)-pyridine | 0.74 g, 44% | BrCC1=CC=C(C(=N1)C1=CC(=CC=C1)C(F)(F)F)OC | C14H11BrF3NO
